US06333322B1
3,4-Dimethyl-9-chloro-10-(3-phthalimidopropyl)acridinium chloride
A mixture of 1.0 g of 3,4-dimethyl-10-(3-phthalimidopropyl)-9-acridone with 340 ml of oxalyl chloride was stirred at room temperature in 100 ml of dichloromethane for 30 min. After evaporating the excessive oxalyl chloride and dichloromethane under reduced pressure, 1.1 g of the title compound was obtained.

reactant | 3,4-dimethyl-10-(3-phthalimidopropyl)-9-acridone | 1.0 g | CC=1C=CC=2C(C3=CC=CC=C3N(C2C1C)CCCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C26H22N2O3
reactant | oxalyl chloride | 340 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3,4-Dimethyl-9-chloro-10-(3-phthalimidopropyl)acridinium chloride | 1.1 g | [Cl-].CC=1C=CC2=C(C3=CC=CC=C3[N+](=C2C1C)CCCN1C(C=2C(C1=O)=CC=CC2)=O)Cl | InChI=1S/C26H22ClN2O2.ClH/c1-16-12-13-21-23(27)20-10-5-6-11-22(20)28(24(21)17(16)2)14-7-15-29-25(30)18-8-3-4-9-19(18)26(29)31;/h3-6,8-13H,7,14-15H2,1-2H3;1H/q+1;/p-1
